US04159984
To a solution of 1.774 g of diphenylmethyl α-(3ξ-carboxy-2-phenylacetyl-7-oxo-4-oxa-2,6-diazabicyclo[3.2.0]heptan-6-yl)-α-isopropylideneacetate dissolved in a mixture of 18 ml of benzene and 0.1 ml of N,N-dimethylformamide is added 0.43 ml of oxalyl chloride, and the mixture stirred at room temperature for 30 minutes and then concentrated under reduced pressure. The residue (diphenylmethyl α-(3ξ-chlorocarbonyl-2-phenylacetyl-7-oxo-4-oxa-2,6-diazabicyclo[3.2.0]heptan-6-yl)-α-isopropylideneacetate) is dissolved in 10 ml of methylene chloride and mixed with 15 ml of ether solution of diazomethane, which has been prepared from 1.5 g of nitrosomethylurea, under ice-cooling, and the mixture stirred for 30 minutes. To the resulting solution of diphenylmethyl α-(3ξ-diazoacetyl-2-phenylacetyl-7-oxo-4-oxa-2,6-diazabicyclo[3.2.0]heptan-6-yl)-α-isopropylideneacetate is is added an ether solution of hydrogen chloride until the spot of diazoketone disappears, and the mixture concentrated under reduced pressure. The residue is purified by chromatography on 40 g of silica gel containing 10% water and eluted with benzene containing 10% ethyl acetate to yield 1.59 g of diphenylmethyl α-(3ξ-chloroacetyl-2-phenylacetyl-7-oxo-4-oxa-2,6-diazabicyclo[3.2.0]heptan-6-yl)-α-isopropylideneacetate in 84.7% yield.

reactant | diphenylmethyl α-(3ξ-carboxy-2-phenylacetyl-7-oxo-4-oxa-2,6-diazabicyclo[3.2.0]heptan-6-yl)-α-isopropylideneacetate | 1.774 g | C(=O)(O)C1NC2(C(N(C2O1)C(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)=C(C)C)=O)C(CC1=CC=CC=C1)=O | C31H28N2O7
reactant | oxalyl chloride | 0.43 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | diphenylmethyl α-(3ξ-diazoacetyl-2-phenylacetyl-7-oxo-4-oxa-2,6-diazabicyclo[3.2.0]heptan-6-yl)-α-isopropylideneacetate | [N+](=[N-])=CC(=O)C1NC2(C(N(C2O1)C(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)=C(C)C)=O)C(CC1=CC=CC=C1)=O | C32H28N4O6
reactant | hydrogen chloride | Cl | ClH
solvent | benzene | 18 ml | C1=CC=CC=C1 | C6H6
solvent | N,N-dimethylformamide | 0.1 ml | CN(C=O)C | C3H7NO
solvent | ether | CCOCC | C4H10O
product | diphenylmethyl α-(3ξ-chloroacetyl-2-phenylacetyl-7-oxo-4-oxa-2,6-diazabicyclo[3.2.0]heptan-6-yl)-α-isopropylideneacetate | 1.59 g, 84.7% yield | ClCC(=O)C1NC2(C(N(C2O1)C(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)=C(C)C)=O)C(CC1=CC=CC=C1)=O | C32H29ClN2O6
